US09421205B2
(b) Lithium 2-(2-(2-(2-((2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-6-yl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I81)
tert-Butyl 6-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3,4-dihydroisoquinoline-2(1H)-carboxylate (I80) (520 mg, 0.91 mmol) was dissolved in THF (20 mL) and a solution of lithium hydroxide hydrate (76 mg. 1.8 mmol) in water (5 mL) was added. After 18 hours the THF was removed under reduced pressure, the mixture was diluted with water (10 mL) and extracted with ethyl acetate (3×50 mL). The combined ethyl acetate phases were washed with brine, dried (sodium sulfate) and evaporated to give the title compound (I81) (414 mg, 81% yield) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.36 (s, 1H), 8.65 (s, 1H), 7.64 (s, 1H), 7.59 (d, J=8.4 Hz, 1H), 7.20-7.02 (m, 5H), 4.45 (s, 2H), 3.54 (t, J=5.8 Hz, 2H), 3.17 (s, 2H), 3.14-2.98 (m, 4H), 2.76 (t, J=5.7 Hz, 2H), 1.43 (s, 9H). LCMS Method C: rt 6.51 min; m/z 557.1 [M-Li+2H]+, 501.1 [M-tBu-Li+3H]+, 457.1 [M-Li-Boc+3H]+; m/z 555.1 [M-Li]−.

reactant | tert-Butyl 6-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.91 mmol, 520 mg | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC=2C=C3CCN(CC3=CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C30H33F3N4O4
reactant | lithium hydroxide hydrate | 1.8 mmol, 76 mg | O.[OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | Lithium 2-(2-(2-(2-((2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-6-yl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 414 mg, 81% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+] | InChI=1S/C29H31F3N4O4.Li/c1-28(2,3)40-27(39)36-13-12-20-14-22(10-8-21(20)17-36)34-26-33-16-23(29(30,31)32)24(35-26)11-9-18-6-4-5-7-19(18)15-25(37)38;/h4-8,10,14,16H,9,11-13,15,17H2,1-3H3,(H,37,38)(H,33,34,35);/q;+1/p-1
